US07253165B2
Synthesis of 2-{2-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-ethyl}-1,2,3,4tetrahydro-isoquinoline (Scheme III, Compound 1b)
Combine 3-[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole (200 mg, 0.595 mmol), 1,2,3,4-tetrahydroisoquinoline (0.08 mL, 0.595 mmol), potassium carbonate (181 mg, 1.31 mmol), potassium iodide (10 mg, 0.06 mmol) and 4% aqueous acetonitrile. Stir at 70° C. for 18 hours and cool to room temperature. Filter the reaction mixture and wash the solids with dichloromethane. Evaporate the filtrate to give the title compound as a brown solid (130 mg, 56% Yield). Purity by LC/MS=68%, [M+H]+=389.

reactant | 3-[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole | 0.595 mmol, 200 mg | BrCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C15H11BrFNO2
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.595 mmol, 0.08 mL | C1NCCC2=CC=CC=C12 | C9H11N
reactant | potassium carbonate | 1.31 mmol, 181 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.06 mmol, 10 mg | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-{2-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-ethyl}-1,2,3,4tetrahydro-isoquinoline | 130 mg, 56% Yield | FC1=CC2=C(C(=NO2)C2=CC=C(OCCN3CC4=CC=CC=C4CC3)C=C2)C=C1 | C24H21FN2O2
